US04579848
A 5.0 g portion of N-[8-methyl-5-(3-nitrophenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]acetamide in a solution of 20 ml of trifluoroacetic acid containing 500 mg of 10% palladium on carbon catalyst was shaken under 46 lb. of hydrogen pressure on a Paar hydrogenator overnight. The mixture was filtered and the filtrate evaporated, giving an oil. This oil was neutralized with 20 ml of saturated aqueous potassium carbonate, saturated with salt and extracted into 100 ml of ethyl acetate. The organic phase was dried, filtered and evaporated. The residue was recrystallized from ethanol, giving 3.4 g of N-[5-(3-aminophenyl)-8-methyl[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]acetamide. A 282 mg portion of the above compound and 210 mg of p-toluene sulfonyl chloride were dissolved in 100 ml of pyridine with stirring and sealed overnight. A 105 mg portion of p-toluene sulfonyl chloride was added and the mixture was warmed under a drying tube on a steam bath for 1/2 hour. The mixture was cooled, evaporated and the residue taken up in chloroform and passed through a hydrous magnesium silicate pad. The filtrate was taken up in chloroform, washed with 0.1N hydrochloric acid, dried and evaporated. This residue was recrystallized from ethyl acetate-cyclohexane, giving the desired product as white crystals, mp 215°-218° C.

reactant | N-[8-methyl-5-(3-nitrophenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]acetamide | CC=1C=2N(C(=NC1)C1=CC(=CC=C1)[N+](=O)[O-])N=C(N2)NC(C)=O | C14H12N6O3
reactant | trifluoroacetic acid | 20 ml, 500 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
product | N-[5-(3-aminophenyl)-8-methyl[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]acetamide | 3.4 g | NC=1C=C(C=CC1)C1=NC=C(C=2N1N=C(N2)NC(C)=O)C | C14H14N6O
